US04008258
To a stirred solution of 3.01 g. of lauric acid in benzene, under nitrogen, is added 5.8 g. of oxalyl chloride. The mixture is stirred at room temperature for 2 hours and then concentrated in vacuo at 40°. To the concentrate is added fresh benzene and 3.25 g. of cyclopropylmethyl alcohol. The solution is stirred overnight at room temperature and then diluted with water. The reaction mixture is worked up by washing with water and brine, drying over calcium sulfate, concentrating the organic phase under reduced pressure and purifying by distillation to yield cyclopropylmethyl laurate (cyclopropanemethyl-n-dodecanoate), b.p. (bath) 90° at 0.005 mm.

reactant | lauric acid | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | cyclopropylmethyl laurate | C(CCCCCCCCCCC)(=O)OCC1CC1 | C16H30O2
